US06627651B1
Into a solution of methyl 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (350 mg) in THF-methanol (7-3.5 ml) was added at room temperature a 2 M aqueous solution of potassium carbonate (0.9 mg), and the resulting mixture was stirred at 65° C. for 20 hours. After cooling to room temperature, the reaction mixture was mixed with 1 N hydrochloric acid (10 ml) and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (303 mg) as colorless crystals.

reactant | methyl 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 350 mg | ClC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC=C1 | C19H17ClO5S
reactant | potassium carbonate | 0.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | THF methanol | 7-3.5 ml | C1CCOC1.CO
product | 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 303 mg | ClC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=CC=C1 | C18H15ClO5S
